US04556711
5-(4-Benzamidophenyl)-2(1H)-pyrazinone
A solution of 5-(4-aminophenyl)-2(1H)-pyrazinone hydrobromide (2.0 g) in aqueous sodium hydroxide (46 ml, 10%) was treated with benzoyl chloride (1.9 ml) and the mixture was agitated for 2 hours at room temperature. The pale yellow precipitate was collected, washed with water and dried. Recrystallisation from glacial acetic acid gave the title compound (0.9 g), m.p.>300° C.; ν(Nujol mull) 1660 (C=0), 1705 (C=0), 3330 (NH)cm-1.

reactant | 5-(4-aminophenyl)-2(1H)-pyrazinone hydrobromide | 2.0 g | Br.NC1=CC=C(C=C1)C=1N=CC(NC1)=O
reactant | benzoyl chloride | 1.9 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | sodium hydroxide | 46 ml | [OH-].[Na+]
product | 5-(4-Benzamidophenyl)-2(1H)-pyrazinone | 0.9 g | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)C=1N=CC(NC1)=O | C17H13N3O2
